US08957064B2
Step 1: 6-(4-fluorophenyl)-imidazo[1,2-a]pyrimidine-5,7-diol
7.2 g (39.3 mmol) 1H-Imidazol-2-ylamine sulfate are dissolved in 45 mL DMF. 10 g (39.3 mmol) diethyl (4-fluorophenyl)malonate is added. After dropwise addition of 17.6 mL (118 mmol) 1,8-diazabicyclo[5.4.0]undec-7-ene the reaction mixture is stirred at 100° C. over night. The DMF has been removed and the darkbrown oily residue treated with 150 mL water (complete dissolution). 2M HCl (60 mL) is added at room temperature until a pH of 1. After stirring for 1 h at ice bath cooling the formed crystals are collected by filtration to yield the product (5.78 g=53.9%), which is used without further purification. Another crop of 0.48 g (4.5%) is obtained by treating the solid residue in the flask with water and 2M HCl. After stirring for one hour the crystals are collected.

reactant | 1H-Imidazol-2-ylamine sulfate | 39.3 mmol, 7.2 g | S(=O)(=O)(O)O.N1C(=NC=C1)N
reactant | diethyl (4-fluorophenyl)malonate | 39.3 mmol, 10 g | FC1=CC=C(C=C1)C(C(=O)OCC)C(=O)OCC | C13H15FO4
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 118 mmol, 17.6 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | HCl | 2M | Cl | ClH
solvent | DMF | 45 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 6-(4-fluorophenyl)-imidazo[1,2-a]pyrimidine-5,7-diol | FC1=CC=C(C=C1)C=1C(=NC=2N(C1O)C=CN2)O | C12H8FN3O2
